* /home/19e620/esim-workspace/buck_boost_converter/buck_boost_converter.cir

.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
v1  clk gnd pulse(0 1.8 1n 1n 1n 1m 2m)
* u3  clk net-_u3-pad2_ adc_bridge_1
* u4  net-_u4-pad1_ pwm dac_bridge_1
xsc1 vin pwm net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8 
xsc3 vout gnd sky130_fd_pr__cap_mim_m3_2 W=1000 L=1500
* s c m o d e
xsc5 gnd net-sc1-pad3 gnd 0 sky130_fd_pr__ind_05_125
v2 vin gnd  dc 1.8
* u2  clk plot_v1
* u5  pwm plot_v1
* u6  vin plot_v1
* u7  vout plot_v1
xsc4 gnd vout vout sky130_fd_pr__res_generic_pd 
xsc2 net-sc1-pad3 net-sc1-pad3 vout vout sky130_fd_pr__nfet_01v8 
* u1  ? ? lav_pwm
* u8  net-_u3-pad2_ net-_u4-pad1_ lav_pwm
* u9  net-_sc1-pad3_ gnd plot_i2
a1 [clk ] [net-_u3-pad2_ ] u3
a2 [net-_u4-pad1_ ] [pwm ] u4
a3 [? ] [? ] u1
a4 [net-_u3-pad2_ ] [net-_u4-pad1_ ] u8
v_u9 net-_sc1-pad3_ gnd 0
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             lav_pwm, NgSpice Name: lav_pwm
.model u1 lav_pwm(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             lav_pwm, NgSpice Name: lav_pwm
.model u8 lav_pwm(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.001e-00 0.1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(pwm)
plot v(vin)
plot v(vout)
plot i(v_u9)
.endc
.end
